* Z:\mnt\spice-netlists\LT3752-1_LT8311_DC1929A.asc
XU1 0 MP_01 0 MP_02 N018 N029 N029 N029 N040 N043 N030 N042 NC_03 N041 N036 N008 MP_04 N023 MP_05 N022 0 LT8311
R1 N033 0 39m
L1 IN N006 1200µ
L2 N003 N007 31.2µ
L3 N003 OUT 15µ
C2 OUT 0 22µ x4
R2 OUT N030 10K
R3 N030 0 1.13K
R4 N034 N037 5.76K
R5 N037 0 2.94K
V1 IN 0 300
Rload OUT 0 0.72
M1 N006 N026 N033 N033 SPA11N60C3
R6 IN N034 1Meg
R7 N040 N039 3.16K
R8 N038 N025 100
R9 N048 0 1K
C5 N030 OUT 68p
L4 0 N051 785µ
C6 N050 N051 220p
R12 N036 0 200
C8 0 N045 .047µ
C9 0 N049 .047µ
R13 N053 0 78.7K
R14 N054 0 124K
R15 N055 0 100K
R16 N056 0 124K
R17 N057 0 40.2K
R18 N058 0 75K
R19 N035 N033 1.5K
M2 N007 N018 0 0 BSC031N06NS3
C10 OUT 0 220µ
L6 IN N004 4m
M5 N004 N009 N012 N012 STP8NM60
R21 N012 0 .2
R22 N012 N011 499
L8 0 N001 62.5µ
D2 N001 N002 BAT46WJ
R23 N005 0 806
R24 N002 N005 10K
C13 N019 N020 3.3n
L7 0 N027 46µ
D3 N027 N028 BAT46WJ
C14 N028 0 4.7µ
L5 0 N052 785µ
C15 0 N002 22µ
R25 N046 N047 100K
R26 N047 N048 100K
C16 N038 0 1µ
C4 N029 0 2.2µ
R11 N023 0 1000
R27 N013 N022 1000
R10 N042 0 523K
C1 N041 0 .033µ
C7 N043 N044 .022µ
M3 N003 N008 N013 N013 IPB065N15N3
XU2 N005 N020 N053 N047 N046 NC_06 N045 N054 N034 N037 N056 N057 N058 N055 MP_07 MP_08 N049 0 0 0 N035 N032 MP_09 N026 MP_10 N025 MP_11 N031 MP_12 N050 MP_13 N021 MP_14 N009 MP_15 N011 LT3752-1
M4 N010 N017 N006 N006 STP8NM60
C11 IN N010 47n
D1 N006 N017 MMSD4148
C17 N017 N006 470p
C18 N016 N017 3.3n
L9 N015 0 2m
L10 N016 N006 2m
C19 N014 N015 220n
R20 N021 N014 100
R28 N013 0 2m
C12 N031 0 2.2µ ic=9.49
R29 IN N024 748K
D4 N025 N031 MMSD4148
D5 N024 N031 MMSD4148
R31 N052 N036 309
R34 N032 N033 12.7K
R35 0 N032 20K
XU3 N039 0 N038 N048 PC817 Igain=1.5m
R30 N002 N025 10
C3 N025 0 4.7µ
R32 N028 N029 10
R33 N019 0 28K
R36 N044 0 5.62K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 14m startup
K2 L5 L4 1
K3 L6 L7 L8 1
K4 L9 L10 1
* Note:\n  Some values like those for SS capacitors have been changed to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
* LT3752-1 - Active Clamp Synchronous Forward Controllers with Internal Housekeeping Controller.\nLT8311 - Synchronous Rectifier Controller with Opto-Coupler Driver for Forward Converters.\n200W Active Clamp Forward Converter with Synchronous Rectification\nInput: 150V to 400V     Output: 12V @ 16.7A
.lib LT3752-1.sub
.lib LT8311.sub
.lib PC817.sub
.backanno
.end
